US08420816B2
Step A: tert-butyl 3-cyano-3-methylazetidine-1-carboxylate
To an oven-dried 25 mL round bottom flask equipped for stirring was added diisopropylamine (1.318 mL, 9.33 mmol) under nitrogen. THF (10 mL) was added and the colorless solution was cooled to 0° C. n-BuLi in hexanes (1.6N, 5.83 mL, 9.33 mmol) was added dropwise and the solution was stirred at 0° C. for 30 min. The solution was cooled to −78° C. and a solution of tert-butyl 3-cyanoazetidine-1-carboxylate (1 g, 5.49 mmol) in THF (3 mL) was added and the solution was stirred at −78° C. for 30 min. Iodomethane (0.445 mL, 7.13 mmol) was added dropwise at −78° C. The reaction mixture was stirred for 30 min; it was then allowed to slowly warm up to 25° C. and was stirred for 16 h. The reaction mixture was quenched at 0° C. with aqueous ammonium chloride (5 mL) and was extracted with DCM (3 times). The extracts were dried over Na2SO4. Purification by silica column chromatography (MeOH/DCM, 0-5%) afforded the title compound as a yellow oil (0.35 g, 32%). 1H NMR (500 MHz, CDCl3) δ 1.45 (s, 9 H) 1.67 (s, 3 H) 3.80 (d, J=8.30 Hz, 2 H) 4.29 (d, J=8.79 Hz, 2 H).

reactant | diisopropylamine | 9.33 mmol, 1.318 mL | C(C)(C)NC(C)C | C6H15N
reactant | n-BuLi | [Li]CCCC
reactant | tert-butyl 3-cyanoazetidine-1-carboxylate | 5.49 mmol, 1 g | C(#N)C1CN(C1)C(=O)OC(C)(C)C | C9H14N2O2
reactant | Iodomethane | 7.13 mmol, 0.445 mL | IC | CH3I
solvent | THF | 3 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-cyano-3-methylazetidine-1-carboxylate | 0.35 g, 32% | C(#N)C1(CN(C1)C(=O)OC(C)(C)C)C | C10H16N2O2
